* source NON_DIFF_SIM
V_charge_ref         N61117 0 0Vdc
V_V2         N68433 0 20Vdc
X_U1C         N61117 N61101 N68433 0 N74717 LM324
X_U1A         N65310 N65599 N68433 0 N65500 LM324
R_R7         N65310 N65908 10k
V_load_vef         N69834 0 0.05Vdc
R_R4         N61101 0 0.05
V_V5         N59430 N65908 4.2Vdc
V_V1         N59430 0 6Vdc
R_10k         N65310 N69834 10k
R_R3         N59694 N65908 0.05
R_R5         N65599 N65500 10k
R_R8         N59430 N65908 4.2
X_U1B         N65500 N59694 N68433 N65908 N59766 LM324
R_R6         0 N65599 10k
