* source HYBRID BATTERY
R_R1         N00579 0 10K
R_R2         N00562 N00579 10K
V_V2         N00562 0 DC 0Vdc AC 1Vac 
C_C2         N00562 N00579  3.3n  TC=0,0 
